US08466176B2
A stirred solution of tert-butyl {6-[({[(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}carbamate (0.2 g, 0.488 mmol, 1 eq.) in 3 ml of dry DMF was treated with NaH (60% dispn in mineral oil, 0.020 g, 0.513 mmol, 1.05 eq.) added in one portion. After 20 mins (2-bromoethyl)cyclohexane (0.098 g, 0.513 mmol, 1.05 eq.) was added and the reaction was stirred for 1 hr. Water was added followed by EtOAc. The aqueous layer was separated and extracted with EtOAc. Then the organics were combined, dried over MgSO4 and evaporated to give tert-butyl (2-cyclohexylethyl){6-[({[(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}carbamate (0.27 g, 85%) as a viscous oil

reactant | tert-butyl {6-[({[(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}carbamate | 0.488 mmol, 0.2 g, 1 eq. | CN1N=NN=C1C(C1=CC=CC=C1)=NOCC1=CC=CC(=N1)NC(OC(C)(C)C)=O | C20H23N7O3
reactant | NaH | 0.513 mmol, 0.020 g, 1.05 eq. | [H-].[Na+]
reactant | (2-bromoethyl)cyclohexane | 0.513 mmol, 0.098 g, 1.05 eq. | BrCCC1CCCCC1 | C8H15Br
reactant | Water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl (2-cyclohexylethyl){6-[({[(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}carbamate | 0.27 g, 85% | C1(CCCCC1)CCN(C(OC(C)(C)C)=O)C1=NC(=CC=C1)CON=C(C1=CC=CC=C1)C1=NN=NN1C | C28H37N7O3
